US06486183B1
To a solution of 3-fluorophenol (22.4 g, 0.2 mol), pyridine (24 ml, 0.3 mol) and dichloromethane (200 ml) at room temperature was added 20 ml (0.225 mol) propionyl chloride over a period of 5 min. The reaction was exothermic. The solution was stirred for another 30 min. After addition of dichloromethane, the organic phase was washed with sat. NaHCO3 solution and water, dried over MgSO4 and concentrated in vacuo. 33.8 g (100%) of 3-fluoro-1-propionyloxybenzene was obtained. This compound was reacted with 33.3 g (0.25 mol) AlCl3 at 150° C. for a period of 10 min. After careful quenching with water, the reaction mixture was extracted three times with ether. The ether phase was dried (MgSO4) and evaporated to give 29.5 g (0.176 mol, 88%) rearranged product. This intermediate was dissolved in 200 ml of acetone and K2CO3 (42, 0.3 mol) and MeI (25 ml, 0.4 mol) were added. The reaction mixture was heated at 40° C. for a period of 12 h. The reaction mixture was filtered and the acetone was evaporated. The residue was dissolved in ether and the ether phase washed with a 0.5 M NaOH solution and water. Drying (MgSO4) and evaporation gave 31.2 g (0.17 mol, 86% yield for three steps) of 4-fluoro-2-methoxypropiophenone.

reactant | 3-fluorophenol | 0.2 mol, 22.4 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | pyridine | 0.3 mol, 24 ml | N1=CC=CC=C1 | C5H5N
reactant | propionyl chloride | 0.225 mol, 20 ml | C(CC)(=O)Cl | C3H5ClO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-fluoro-1-propionyloxybenzene | 33.8 g, 100% | FC=1C=C(C=CC1)OC(CC)=O | C9H9FO2
